US05102895
7.13 g (0.04 mol) of 4-benzyloxy-2-buten-1-ol was dissolved in 250 ml of dichloromethane and 8.6 g (0.04 mol) of m-chloroperbenzoic acid (purity: 80%) was added thereto in four portions under ice-cooling and stirring. After stirring the mixture at the same temperature for additional 1 hour, the precipitate thus formed was filtered off. The filtrate was poured into a 10% aqueous solution of sodium hydrosulfite, extracted with dichloromethane, washed with water, and dried. After distilling off the solvent, the obtained liquid residue was purified by column chromatography (silica gel, hexane/ether) to thereby give 7.7 g of 4-benzyloxy-2,3-epoxybutan-1-ol as a colorless liquid.

reactant | 4-benzyloxy-2-buten-1-ol | 0.04 mol, 7.13 g | C(C1=CC=CC=C1)OCC=CCO | C11H14O2
reactant | m-chloroperbenzoic acid | 0.04 mol, 8.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-benzyloxy-2,3-epoxybutan-1-ol | 7.7 g | C(C1=CC=CC=C1)OCC1C(CO)O1 | C11H14O3
